US04952397
1-(2-mercaptoethyl)-4-sulfoaminomethylpyridinium hydroxide, inner salt
A suspension of N-(4-pyridylmethyl)sulfamic acid (800 ml, 4.25 mmol) in water (5.0 ml) was adjusted to pH 7.0 with aqueous sodium hydroxide solution (2.5N). The resulting solution was treated with a solution of silver nitrate (723 ml, 4.25 mmol) in water (3.0 ml) to give a white suspension. Additional water (5.0 ml) was added to facilitate stirring and the mixture was treated with ethylene sulfide (0.280 ml, 4.67 mmol).

reactant | N-(4-pyridylmethyl)sulfamic acid | 4.25 mmol, 800 ml | N1=CC=C(C=C1)CNS(O)(=O)=O | C6H8N2O3S
reactant | sodium hydroxide | 2.5N | [OH-].[Na+]
reactant | ethylene sulfide | 4.67 mmol, 0.280 ml | C1CS1 | C2H4S
solvent | water | 5.0 ml | O | H2O
solvent | water | 3.0 ml | O | H2O
catalyst | silver nitrate | 4.25 mmol, 723 ml | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 5.0 ml | O | H2O
product | 1-(2-mercaptoethyl)-4-sulfoaminomethylpyridinium hydroxide | [OH-].SCC[N+]1=CC=C(C=C1)CNS(=O)(=O)O | InChI=1S/C8H12N2O3S2.H2O/c11-15(12,13)9-7-8-1-3-10(4-2-8)5-6-14;/h1-4,9H,5-7H2,(H-,11,12,13,14);1H2
